US08247576B2
89A. 4-(4-Chloro-phenyl)-3,4,5,6-tetrahydro-2H-[4,4′]bipyridinyl-1-carboxylic acid tert-butyl ester
Under nitrogen, a solution of bis-(2-chloro-ethyl)-carbamic acid tert-butyl ester* (1.54 g, 6.36 mmol) in toluene (10 mL) was cooled in ice. 4-(4-Chloro-benzyl)-pyridine (1.30 g, 6.36 mmol) was added, followed over two minutes by sodium hexamethyldisilazide solution (10 mL, 20 mmol, 2M in THF). The mixture was stirred at 0° C. for 3.5 hours then allowed to warm to room temperature and stirred for a further 20 hours. Methanol was added then the mixture was concentrated in vacuo. The residue was taken up in ethyl acetate and washed with 1N hydrochloric acid (×3) and brine, dried (MgSO4), filtered and concentrated to afford a residue which was purified by column chromatography (SiO2), eluting with gradient of 2M methanolic ammonia in dichloromethane (1% to 5%). A second purification by column chromatography (SiO2), eluting with 50% ethyl acetate/petrol gave the title compound (16 mg, 0.7%). LCMS (PS-A2) Rt 2.65 min [M+H]+ 373.

reactant | bis-(2-chloro-ethyl)-carbamic acid tert-butyl ester | C(C)(C)(C)OC(N(CCCl)CCCl)=O | C9H17Cl2NO2
reactant | 4-(4-Chloro-benzyl)-pyridine | 6.36 mmol, 1.30 g | ClC1=CC=C(CC2=CC=NC=C2)C=C1 | C12H10ClN
reactant | sodium hexamethyldisilazide | 20 mmol, 2M, 10 mL | C[Si]([N-][Si](C)(C)C)(C)C.[Na+]
reactant | Methanol | CO | CH4O
solvent | toluene | 10 mL | C1(=CC=CC=C1)C | C7H8
product | 4-(4-Chloro-phenyl)-3,4,5,6-tetrahydro-2H-[4,4′]bipyridinyl-1-carboxylic acid tert-butyl ester | 16 mg, 0.7% | C(C)(C)(C)OC(=O)N1CCC(CC1)(C1=CC=NC=C1)C1=CC=C(C=C1)Cl | C21H25ClN2O2
